US04578398
(d) Preparation of 4-(1-Methylethenyl)-1,8-diethyl-2,3,4,9-tetrahydro-1H-carbazole-1-acetic Acid (XII, R=--C(CH3)=CH2)
The 4-(1-methylethenyl)-1,8-diethyl-2,3,4,9-tetrahydro-1H-carbazole-1-acetic acid methyl ester (1.72 g, 5.08 mmol), prepared in Step (b), derived from the less polar ketone, and 7.11 mmol of K2CO3 (0.983 g) were refluxed under nitrogen in 40.6 ml of MeOH containing 5.1 ml of water. After 24 hours, most of the methanol was removed in vacuo and the residue was dissolved in 15 ml of water. It was acidified to pH~1 with 3M HCl (aq.) and extracted with 4×40 ml of ether. Drying (MgSO4) and flash chromatography afforded 1.51 g (4.65 mmol, 91%) of yellow oil. The compound was recrystallized from 2:1 petroleum ether/benzene to give 988 mg of white powder which was dried at 78° C. (high vacuum, phosphorous pentoxide) m.p. 133.5°-135° C.

reactant | 4-(1-methylethenyl)-1,8-diethyl-2,3,4,9-tetrahydro-1H-carbazole-1-acetic acid methyl ester | 5.08 mmol, 1.72 g | COC(CC1(CCC(C=2C3=CC=CC(=C3NC12)CC)C(=C)C)CC)=O | C22H29NO2
reactant | K2CO3 | 7.11 mmol, 0.983 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | MeOH | 40.6 ml | CO | CH4O
product | 4-(1-Methylethenyl)-1,8-diethyl-2,3,4,9-tetrahydro-1H-carbazole-1-acetic Acid | 4.65 mmol, 1.51 g, 91% | CC(=C)C1CCC(C=2NC3=C(C=CC=C3C12)CC)(CC(=O)O)CC | C21H27NO2
